US07268151B2
1-(3-Methoxy-4pyridin-2-ylphenyl)-2-nitroethanol
A THF solution of 3-methoxy-4-pyridin-2-ylbenzaldehyde (0.3 g, 1.4 mmol), nitromethane (0.23 mL, 4.2 mmol) and TEA (0.2 mL, 1.4 mmol) was stirred at 55° C. over night, concentrated and purified on silica gel (2:1 hexane-ethyl acetate) to afford a yellow foam.

reactant | 3-methoxy-4-pyridin-2-ylbenzaldehyde | 1.4 mmol, 0.3 g | COC=1C=C(C=O)C=CC1C1=NC=CC=C1 | C13H11NO2
reactant | nitromethane | 4.2 mmol, 0.23 mL | [N+](=O)([O-])C | CH3NO2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3-Methoxy-4pyridin-2-ylphenyl)-2-nitroethanol | COC=1C=C(C=CC1C1=NC=CC=C1)C(C[N+](=O)[O-])O | C14H14N2O4
